simulator lang=spectre
include "spectre_models.scs"
parameters c0=1u v0=5
r1 (1 2) res r=1k
c1 (2 0) cap c=2*c0
v1 (1 0) vsrc type="pulse" val0=0 val1=v0 delay=1m rise=1u fall=1u width=4m
model vsrc vsource
